US05360815
Step 4: 4-Phenyl-7-coumarincarboxylic acid
A mixture of 7-carbomethoxy-4-phenylcoumarin (510 mg), 1N LiOH (10 mL), THF (7 mL) and MeOH (10 mL) was heated at reflux for 1 hr. The solution was concentrated then H2O (10 mL), 1N HCl (15 mL), THF (10 mL) and Et2O (10 mL) were added and stirring continued for 1 hr. After this time, the organic layer was separated and concentrated to yield the title compound which was used as such in the next step.

reactant | 7-carbomethoxy-4-phenylcoumarin | 510 mg | C(=O)(OC)C1=CC=C2C(=CC(OC2=C1)=O)C1=CC=CC=C1 | C17H12O4
reactant | LiOH | 1N, 10 mL | [Li+].[OH-]
reactant | THF | 7 mL | C1CCOC1 | C4H8O
solvent | MeOH | 10 mL | CO | CH4O
product | 4-Phenyl-7-coumarincarboxylic acid | C1(=CC=CC=C1)C1=CC(OC2=CC(=CC=C12)C(=O)O)=O | C16H10O4
